US03996282
A mixture of 54.0 parts of N,N-bis(3-formamidopropyl)methylamine, 50.4 parts of 4-methoxy-3-nitrobenzyl chloride, and 78 parts of acetonitrile was stirred at reflux for seven and a half hours. An additional 78 parts of acetonitrile was added to the reaction mixture causing an oil to separate. Heating at reflux was continued for an additional two hours and the 140 parts of acetonitrile was distilled away and 200 parts of water was added. The remaining acetonitrile was removed by distillation and the cooled reaction mixture was filtered with the aid of diatomaceous earth to obtain an aqueous solution of N-methyl-N-(3-nitro-4-methoxybenzyl)-N,N-bis(3-formamidopropyl)ammonium chloride. The solution was used directly for reduction of the nitro group.

reactant | N,N-bis(3-formamidopropyl)methylamine | C(=O)NCCCN(CCCNC=O)C | C9H19N3O2
reactant | 4-methoxy-3-nitrobenzyl chloride | COC1=C(C=C(CCl)C=C1)[N+](=O)[O-] | C8H8ClNO3
solvent | acetonitrile | C(C)#N | C2H3N
product | N-methyl-N-(3-nitro-4-methoxybenzyl)-N,N-bis(3-formamidopropyl)ammonium chloride | [Cl-].C[N+](CCCNC=O)(CCCNC=O)CC1=CC(=C(C=C1)OC)[N+](=O)[O-] | InChI=1S/C17H26N4O5.ClH/c1-21(9-3-7-18-13-22,10-4-8-19-14-23)12-15-5-6-17(26-2)16(11-15)20(24)25;/h5-6,11,13-14H,3-4,7-10,12H2,1-2H3,(H-,18,19,22,23);1H
